US08106214B2
Example 22: 5-Benzo[1,3]dioxol-5-ylmethylene-2-benzylimino-thiazolidin-4-one
5-Benzo[1,3]dioxol-5-ylmethylene-2-thioxo-thiazolidin-4-one (100 mg, 0.37 mmol) were dissolved in EtOH/water, followed by 60 mg of Na2CO3. The reaction was stirred for 30 min and benzylamine (122 μl, 3 eq.) was added. The reaction mixture was refluxed for 2 h. and the solvents were evaporated. The crude was purified by Parallel Flex chromatography.

reactant | 5-Benzo[1,3]dioxol-5-ylmethylene-2-thioxo-thiazolidin-4-one | 0.37 mmol, 100 mg | O1COC2=C1C=CC(=C2)C=C2C(NC(S2)=S)=O | C11H7NO3S2
reactant | Na2CO3 | 60 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | benzylamine | 122 μl, 3 eq. | C(C1=CC=CC=C1)N | C7H9N
solvent | EtOH water | CCO.O
product | 5-Benzo[1,3]dioxol-5-ylmethylene-2-benzylimino-thiazolidin-4-one | O1COC2=C1C=CC(=C2)C=C2C(NC(S2)=NCC2=CC=CC=C2)=O | C18H14N2O3S
